US05525742
CHART B, Preparation of the amine used in Chart B, Step B-2. A stirred suspension of freshly washed and dried sodium hydride (50% by wt, 9.59 g, 200 mmol) in dry dimethyl sulfoxide (75 mL) under N2 is cooled to 0° C. A mixture of 3-fluorophenylacetonitrile (8.6 mL, 74.0 mmol) and 1,3-dibromopropane (8.3 mL, 81.4 mmol) in ether (40 mL) is then added dropwise over 35 minutes, via cannula. The resulting orange-red mixture is allowed to stir at 20°-25° C. overnight. The thick reaction mixture is cooled to 0° C. and treated with isopropanol (4 mL). After stirring for 15 minutes, water (64 mL) is added in 10 mL increments and the phases are separated. The aqueous layer is extracted with ether (4×100 mL). The combined organics are washed with water (3×100mL), brine (1×100 mL), dried (MgSO4), filtered and concentrated. The product is distilled at 95° C. (1.0 torr) to afford 7.41 g of 1-(3-fluorophenyl)cyclobutanecarbonitrile. 1H NMR (CDCl3) δ7.39 (m, 1 H), 7.19 (m, 1 H), 7.13 (m, 1 H), 7.05 (m, 1 H), 2.81 (m, 2 H), 2.60 (m, 4 H), 2.50 (m, 1 H), 2.12 (m, 1 H); 13C NMR (CDCl3) δ164.6, 161.3, 142.2, 130.6, 130.5, 123.8, 121.37, 121.32, 115.0, 114.7, 113.0, 112.7, 77.2, 40.9, 39.9, 34.6, 17.0.

reactant | sodium hydride | 200 mmol, 9.59 g | [H-].[Na+]
reactant | 3-fluorophenylacetonitrile | 74.0 mmol, 8.6 mL | FC=1C=C(C=CC1)CC#N | C8H6FN
reactant | 1,3-dibromopropane | 81.4 mmol, 8.3 mL | BrCCCBr | C3H6Br2
reactant | isopropanol | 4 mL | C(C)(C)O | C3H8O
solvent | dimethyl sulfoxide | 75 mL | CS(=O)C | C2H6OS
solvent | ether | 40 mL | CCOCC | C4H10O
solvent | water | 64 mL | O | H2O
product | 1-(3-fluorophenyl)cyclobutanecarbonitrile | 7.41 g | FC=1C=C(C=CC1)C1(CCC1)C#N | C11H10FN
